US09079878B2
Ethyl 2-{3-[(tert-butylsulfinyl)amino]oxetan-3-yl}propanoate
N,N-diisopropylamine (78 g, 770 mmol) was dissolved in anhydrous THF (200 mL) and cooled to −78° C. under nitrogen. Butyl lithium (2.5M solution in hexane, 297 mL, 743 mmol) was added drop-wise. The reaction was removed from the cooling bath for 30 minutes, then re-cooled to −78° C. A solution of ethyl propionate (72.8 g, 713 mmol) in anhydrous THF (200 mL) was added drop-wise and the reaction allowed to stir at room temperature for 1 hour. The reaction was cooled to −78° C. once again and a solution of 2-methyl-N-oxetan-3-ylidenepropane-2-sulfinamide (Preparation 39, 50 g, 285 mmol) in anhydrous THF (200 mL) was added drop-wise. The reaction was stirred at between −40° C. and −60° C. for 4 hours before being quenched with a saturated aqueous solution of ammonium chloride and extracted with ethyl acetate. The organic layer was dried over MgSO4 and concentrated in vacuo. Purification by silica gel column chromatography (ethyl acetate elution) was not successful. The title compound was obtained as a yellow oil (40 g, 51% yield) and used without further purification.

reactant | N,N-diisopropylamine | 770 mmol, 78 g | C(C)(C)NC(C)C | C6H15N
reactant | Butyl lithium | 743 mmol, 2.5M, 297 mL | C(CCC)[Li]
reactant | ethyl propionate | 713 mmol, 72.8 g | C(CC)(=O)OCC | C5H10O2
reactant | 2-methyl-N-oxetan-3-ylidenepropane-2-sulfinamide | 285 mmol, 50 g | CC(C)(C)S(=O)N=C1COC1 | C7H13NO2S
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | Ethyl 2-{3-[(tert-butylsulfinyl)amino]oxetan-3-yl}propanoate | C(C)(C)(C)S(=O)NC1(COC1)C(C(=O)OCC)C | C12H23NO4S
